US06812225B2
1-[5-(4-Benzyl-piperazin-1-yl)-2,3-dihydro-indol-1-yl]-ethanone
1-acetyl-5-bromoindoline (3.0 g, 12.5 mmol) was dissolved in toluene (60 mL). To this was added, sodium t-butoxide (1.68 g, 17.5 mmol), N-benzylpiperazine (2.4 mL, 13.8 mmol), S-BINAP (0.93 g, 1.5 mmol) and Pd2(dba)3 (0.46 g, 0.5 mmol). The mixture was degassed via three cycles of vacuum and nitrogen sparge and then stirred at 95° C. until GC analysis confirmed that the reaction was complete (1 h). The mixture was diluted with ethyl acetate (150 mL), washed with water and extracted with 2N HCl (2×100 mL). The combined aqueous extract was basified with concentrated ammonium hydroxide and extracted with ethyl acetate (2×100 mL). The combined organic extract was dried (MgSO4) and concentrated to yield a solid (2.7 g) which was purified by chromatography to yield a white solid (1.81 g, 43%). Mp=150.5-152.8° C.

reactant | 1-acetyl-5-bromoindoline | 12.5 mmol, 3.0 g | C(C)(=O)N1CCC2=CC(=CC=C12)Br | C10H10BrNO
reactant | sodium t-butoxide | 17.5 mmol, 1.68 g | CC(C)([O-])C.[Na+]
reactant | N-benzylpiperazine | 13.8 mmol, 2.4 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.5 mmol, 0.46 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[5-(4-Benzyl-piperazin-1-yl)-2,3-dihydro-indol-1-yl]-ethanone | 2.7 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C2CCN(C2=CC1)C(C)=O | C21H25N3O
